US07595312B2
A6b dimethyl-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-ylmethyl)-amine
50 mL water and 8.5 g (61.51 mmol) K2CO3 were added to a solution of 4.5 g (14.98 mmol) 1-(7-dimethylaminomethyl-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-2,2,2-trifluoro-ethanone in 50 mL MeOH and the reaction mixture was stirred for 72 h at RT. The reaction solution was evaporated down i.vac., the residue combined with DCM, filtered to remove insoluble constituents and evaporated down i.vac. The desired product was obtained in the form of a light brown oil.

reactant | water | 50 mL | O | H2O
reactant | K2CO3 | 61.51 mmol, 8.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(7-dimethylaminomethyl-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-2,2,2-trifluoro-ethanone | 14.98 mmol, 4.5 g | CN(C)CC1=CC2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1 | C15H19F3N2O
solvent | MeOH | 50 mL | CO | CH4O
product | dimethyl-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-ylmethyl)-amine | CN(CC1=CC2=C(CCNCC2)C=C1)C | C13H20N2
